US06627629B2
Part A: Preparation of (3S,4R)-4-[(R)-1-Phenyl-ethylamino]-piperidine-1,3-dicarboxylic acid 1-tert-butyl ester
In a dry flask (3R,4R)-4-[(R)-1-Phenyl-ethylamino]-piperidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester (4.50 g, 12.4 mmol) was dissolved in tetrahydrofuran (170 mL) and t-butanol (11 mL), and sodium t-butoxide (04.85 g, 50.5 mmol) was added. The reaction mixture was stirred for 16 hours. Water was added and the mixture was extracted with ethyl acetate five times. There was minimal residue after concentration in vacuo of the combined organic extracts. The aqueous extract was acidified to pH 3 with 1N hydrochloric acid, saturated with sodium chloride and then extracted five times with ethyl acetate. The combined organic layers were dried with magnesium sulfate, filtered and concentrated in vacuo to give an orange glass (2.11 g, 49%). MS (ESI), m+/z: (M+H)+=349.2.

reactant | (3R,4R)-4-[(R)-1-Phenyl-ethylamino]-piperidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester | 12.4 mmol, 4.50 g | COC(=O)[C@@H]1CN(CC[C@H]1N[C@H](C)C1=CC=CC=C1)C(=O)OC(C)(C)C | C20H30N2O4
reactant | sodium t-butoxide | 50.5 mmol | CC(C)([O-])C.[Na+]
reactant | Water | O | H2O
solvent | tetrahydrofuran | 170 mL | O1CCCC1 | C4H8O
solvent | t-butanol | 11 mL | C(C)(C)(C)O | C4H10O
product | (3S,4R)-4-[(R)-1-Phenyl-ethylamino]-piperidine-1,3-dicarboxylic acid 1-tert-butyl ester | 2.11 g, 49% | C(C)(C)(C)OC(=O)N1C[C@@H]([C@@H](CC1)N[C@H](C)C1=CC=CC=C1)C(=O)O | C19H28N2O4
